US07790737B2
5-Bromo-2-chloropyrimidine (300 mg, 1.55 mmol) was dissolved by heating at 120° C. in 4-methoxybenzylamine (2.1 g, 15.4 mmol), and the solution was stirred at the same temperature for 2 hours. The reaction mixture was directly subjected to silica gel column chromatography (hexane:ethyl acetate=30:1→5:1) for purification to obtain 5-bromo-N-(4-methoxybenzyl)pyrimidin-2-amine (445.4 mg, 98%) as colorless amorphous solid.

reactant | 5-Bromo-2-chloropyrimidine | 1.55 mmol, 300 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 4-methoxybenzylamine | 15.4 mmol, 2.1 g | COC1=CC=C(CN)C=C1 | C8H11NO
product | 5-bromo-N-(4-methoxybenzyl)pyrimidin-2-amine | 445.4 mg, 98% | BrC=1C=NC(=NC1)NCC1=CC=C(C=C1)OC | C12H12BrN3O
